US07084178B2
(1S,2R)-2-[(4-tert-Butyl-benzyl)-(4-chlorobenzenesulfonyl)-amino]-cyclohexanecarboxylic acid amide.
The titled compound was prepared in 69% yield from (1S,2R)-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide (75 mg, 0.237 mmol) and 1-bromomethyl-4-tert-butyl-benzene (57 mg, 0.249 mmol) according to the procedure described for Example 3: 1H NMR (500 Mz, DMSO) δ 7.58 (d, 2 H, J=8.9), 7.48 (d, 2 H, J=8.6), 7.38 (br s, 1 H), 7.18 (d, 2 H, J=8.2), 7.09 (d, 2 H, J=8.2), 6.76 (br, s, 1 H), 4.53 (ABq, 2 H, Δv=39.4, Jab=16.2), 3. 95 (dt, 1 H, Jd=12.8, Jt=4.0), 2.80 (m, 1 H), 1.79 (m, 1 H), 1.72 (m, 1 H), 1.63 (m, 1 H), 1.48 (m, 2 H), 1.33 (m, 2 H), 1.25 (s, 9 H), 1.18 (m, 2 H); MS m/e 485.3 (M+Na)+.

reactant | (1S,2R)-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide | 0.237 mmol, 75 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@H](CCCC1)C(=O)N | C13H17ClN2O3S
reactant | 1-bromomethyl-4-tert-butyl-benzene | 0.249 mmol, 57 mg | BrCC1=CC=C(C=C1)C(C)(C)C | C11H15Br
product | (1S,2R)-2-[(4-tert-Butyl-benzyl)-(4-chlorobenzenesulfonyl)-amino]-cyclohexanecarboxylic acid amide | 69% yield | C(C)(C)(C)C1=CC=C(CN([C@H]2[C@H](CCCC2)C(=O)N)S(=O)(=O)C2=CC=C(C=C2)Cl)C=C1 | C24H31ClN2O3S
